US09163003B2
2-((3-(5-methoxy-1-oxo-1,3-dihydrospiro[indene-2,4′-piperidine]-1′-yl)-2-oxopyrrolidin-1-yl)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one
To a solution of 5-methoxy-1′-(2-oxopyrrolidin-3-yl)spiro[indene-2,4′-piperidin]-1(3H)-one (3.34 mmol, 1.05 g) and 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one (3.67 mmol, 0.737 g) in THF (40 mL) and DMF (5 mL) was added sodium hydride (60%, 11.69 mmol, 0.468 g) and the suspension was heated at 70° C. for 45 min. The reaction was allowed to cool to ambient temperature, diluted with 100 mL of ether, an off-white solid was collected by filtration and was dried in vacuo. Recrystallization from isopropyl alcohol/methyl alcohol provided the title compound as an off-white solid (661 mg, 41.4% yield). Calculated MS=478.6, MS (ESI) m/e 479.0 (M+H+); 1H NMR (400 MHz, MeOD) 8 ppm 1.33-1.46 (m, 2H) 1.92-2.07 (m, 2H) 2.07-2.27 (m, 2H) 2.49-2.65 (m, 3H) 2.89 (dd, J=8.53, 2.51 Hz, 2H) 3.02-3.15 (m, 3H) 3.35-3.50 (m, 2H) 3.70 (t, J=8.78 Hz, 1H) 3.85-3.98 (m, 6H) 4.16 (d, J=15.06 Hz, 1H) 4.44-4.53 (m, 3H) 6.96 (dd, J=8.53, 2.51 Hz, 1H) 7.05 (s, 1H) 7.62 (d, J=9.03 Hz, 1H). HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.391 min.

reactant | 5-methoxy-1′-(2-oxopyrrolidin-3-yl)spiro[indene-2,4′-piperidin]-1(3H)-one | 3.34 mmol, 1.05 g | COC=1C=C2CC3(CCN(CC3)C3C(NCC3)=O)C(C2=CC1)=O | C18H22N2O3
reactant | 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 3.67 mmol, 0.737 g | ClCC=1NC(C2=C(N1)CCOC2)=O | C8H9ClN2O2
reactant | sodium hydride | 11.69 mmol, 0.468 g | [H-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-((3-(5-methoxy-1-oxo-1,3-dihydrospiro[indene-2,4′-piperidine]-1′-yl)-2-oxopyrrolidin-1-yl)methyl)-7,8-dihydro-3H-pyrano[4,3-d]pyrimidin-4(5H)-one | 661 mg, 41.4% yield | COC=1C=C2CC3(CCN(CC3)C3C(N(CC3)CC=3NC(C4=C(N3)CCOC4)=O)=O)C(C2=CC1)=O | C26H30N4O5
